US06545016B1
A 250mL-round bottom flask was charged with NaH (60% oil dispersion, 534 mg, 13.3 mmol) under N2. The NaH was washed with three portions of hexanes and dried under a stream of N2. Dimethoxyethane (10 mL) was then added to the flask followed by phenol (1.25 g, 13.3 mmol). After stirring for 10 min, a solution of N-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]-1,1-dimethylethyl}acetamide (2.80 g, 8.89 mmol) in 15 mL of dimethoxyethane was added to the reaction mixture, dropwise, via cannula. The reaction mixture was then heated to reflux for 24 h. The cooled solution was then treated with 100 mL of EtOAc and washed successively with H2O, 1% Na2CO3 solution (2×), H2O and brine. The organic portion was dried with Na2SO4 and concentrated to give a brown oil. Column chromatography (SiO2, 50% EtOAc/hexanes) gave N-{2-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]-1,1-dimethylethyl}acetamide (2.40 g) as a yellow oil.

reactant | NaH | 13.3 mmol, 534 mg | [H-].[Na+]
reactant | phenol | 13.3 mmol, 1.25 g | C1(=CC=CC=C1)O | C6H6O
reactant | N-{2-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]-1,1-dimethylethyl}acetamide | 8.89 mmol, 2.80 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC(C)(C)NC(C)=O)C)C | C13H19ClN4O3
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | dimethoxyethane | 15 mL | C(OC)COC | C4H10O2
product | N-{2-[(2,3-dimethyl-5-nitro-6-phenoxypyridin-4-yl)amino]-1,1-dimethylethyl}acetamide | 2.40 g | CC1=NC(=C(C(=C1C)NCC(C)(C)NC(C)=O)[N+](=O)[O-])OC1=CC=CC=C1 | C19H24N4O4
